US05646140
2-[1-(Isopropyl-phenyl-carbamoylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-indol-1 -yl-acetic acid.
To a solution of {2-[1 -(Isopropyl-phenyl-carbamoylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1 H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-indol-1-yl}-acetic acid tert-butyl ester (0.072 g) in dichloromethane (4 ml) at ambient temperature was added trifluoroacetic acid (1.5 ml) gradually with stirring. After the reaction was stirred 30 minutes, the dichloromethane and trifluoroacetic acid were evaporated under reduced pressure to afford a clear glass. The glass was purified by purified RP-HPLC on a C-18 column with a gradient elution of 45-55% acetonitrile in water with 0.1% trifluoroacetic acid buffer over a 30 minute period at a rate of 100 ml/min. Fractions containing the desired material were combined, frozen and lyophilized to afford the title compound (0.050 g) as a white powder. 1H NMR (300 MHz, CDCl3): d 1.07 (d, J=4.4 Hz, 3H), 1.10 (d, J=4.4 Hz, 3H), 4.23 (d, J=16.6 Hz, 1H), 4.40 (d, J=16.6 Hz, 1H), 5.01 (m, 1H), 5.06 (s, 2H), 5.44 (d, J=7.1 Hz, 1H), 7.03 (dd, J=1.2, 8.1 Hz, 1H), 7.17-7.52 (m, 17H), 7.67 (d, J=8.1 Hz, 1H), 7.74 (d, J=7.1 Hz, 1H); MS (ES): m/z=644.2 (MH+); TLC (CH2Cl2 /CH3OH(19:1)): Rf =0.15; RP-HPLC (Vydac C-18, 25 cm×4.6 mm; 45-55% CH3CN in H2O with 0.1% TFA buffer;, 30 minutes; 1 ml/min): tf =22 min (to =3 min).

reactant | {2-[1 -(Isopropyl-phenyl-carbamoylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1 H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-indol-1-yl}-acetic acid tert-butyl ester | 0.072 g | C(C)(C)(C)OC(CN1C(=CC2=CC=CC=C12)C(NC1C(N(C2=C(N(C1=O)C(C(N)=O)(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)=O)=O | C41H41N5O6
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-[1-(Isopropyl-phenyl-carbamoylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamoyl]-indol-1 -yl-acetic acid | 0.050 g | C(C)(C)C(N1C2=C(N(C(C(C1=O)NC(=O)C=1N(C3=CC=CC=C3C1)CC(=O)O)=O)C1=CC=CC=C1)C=CC=C2)(C(N)=O)C2=CC=CC=C2 | C37H33N5O6
